US06429200B1
To a solution of dodecane thiol (1.00 mL, 4.17 mmol, Aldrich Chemical Company) in 20 mL CHCl3 was added sulfuryl chloride (0.74 mL, 9.18 mmol, Aldrich Chemical Company), and the resulting mixture was stirred at room temperature for 18 h. Removal of solvent (aspirator), afforded dodecansulfenyl chloride that was determined to be sufficiently pure by 1H NMR.

reactant | dodecane thiol | 4.17 mmol, 1.00 mL | C(CCCCCCCCCCC)S | C12H26S
reactant | sulfuryl chloride | 9.18 mmol, 0.74 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | dodecansulfenyl chloride | C(CCCCCCCCCCC)SCl | C12H25ClS
